US05792840
1(a) N-Trifluoroacetylglucosamine
160 g (0.742 mole) of D-(+)-glucosamine hydrochloride were dissolved in 2200 ml of methanol (99.6% purity), and 187.9 g (1.86 mole) of triethylamine were added to the resulting solution. 115.9 g of ethyl trifluoroacetate were then added dropwise to the resulting mixture, whilst ice-cooling, after which the mixture was stirred overnight at room temperature. At the end of this time, the mixture was concentrated by evaporation under reduced pressure, and then benzene (250 ml twice) and ethyl acetate (250 ml) were repeatedly added to the residue, which was then concentrated by evaporation under reduced pressure and then finally dried sufficiently in vacuo. The whole of the resulting crude trifluoroacetyl compound was used in the subsequent step (b) without purification.

reactant | D-(+)-glucosamine hydrochloride | 0.742 mole, 160 g | Cl.OC1[C@H](N)[C@@H](O)[C@H](O)[C@H](O1)CO
reactant | triethylamine | 1.86 mole, 187.9 g | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 115.9 g | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | 2200 ml | CO | CH4O
product | N-Trifluoroacetylglucosamine | FC(C(=O)N[C@H]1C(O)O[C@@H]([C@H]([C@@H]1O)O)CO)(F)F | C8H12F3NO6
